### PR TITLE
feat: prove convergence of expectations of the stopped predictable parts

### LINKED ISSUE #458: Doob Meyer Decomposition: expectations of stopped values converge
Prove the following: 

Image

which is `integral_stoppedValue_predictableConvexStep_tendsto_stoppedValue_predictablePartLim` in #445.

### PR DESCRIPTION
**Pull request by FrankieNC**
Closes #458. 

Proves `integral_stoppedValue_predictableConvexStep_tendsto_stoppedValue_predictablePartLim` following the sketch in the issue (discretising τ from the right along the meshes via `meshCeil`), and proves `exists_martingalPart_lim` from `komlos_L1`.

### CODE REVIEW

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 1]
```diff
@@ -281,6 +303,27 @@ lemma martingaleSeqTop_eq_neg_predictableSeqTop {ι Ω E : Type*} [TopologicalSp
...
+initial value of the process. -/
+lemma integral_martingaleSeqTop {ι Ω E : Type*} [TopologicalSpace ι] [SecondCountableTopology ι]
+    [LinearOrder ι] [OrderBot ι] [OrderTop ι] {mΩ : MeasurableSpace Ω} {P : Measure Ω}
+    [NormedAddCommGroup E] [NormedSpace ℝ E] [CompleteSpace E] {S : ι → Ω → E}
+    (𝓕 : Filtration ι mΩ) [SigmaFiniteFiltration P 𝓕] (n : ℕ) :
+    ∫ ω, martingaleSeqTop S 𝓕 P n ω ∂P = ∫ ω, S ⊥ ω ∂P := by
+  rw [martingaleSeqTop, ← setIntegral_univ,
+    ← (martingale_martingalePart (S ∘ Subtype.val) (meshFiltration 𝓕 n) P).setIntegral_eq
+    (bot_le (a := ⊤)) MeasurableSet.univ]
+  simp [_root_.martingalePart]
```
Comment (FrankieNC) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]: Would this `calc` block be better for readability?

```suggestion
  calc ∫ ω, martingaleSeqTop S 𝓕 P n ω ∂P
      = ∫ ω, (P[martingaleSeqTop S 𝓕 P n|meshFiltration 𝓕 n ⊥]) ω ∂P :=
        (integral_condExp ((meshFiltration 𝓕 n).le ⊥)).symm
    _ = ∫ ω, martingalePart (S ∘ Subtype.val) (meshFiltration 𝓕 n) P ⊥ ω ∂P :=
        integral_congr_ae ((martingale_martingalePart _ _ _).condExp_ae_eq bot_le)
    _ = ∫ ω, S ⊥ ω ∂P := by simp [_root_.martingalePart]
```

Comment (CoolRmal) [reply BrownianMotion/StochasticIntegral/DoobMeyer.lean]: Certainly!

Thank you for your work. I'll try my best to provide some review comments next week...
